US07666878B2
89c) [4-Chloro-1-(4-methanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester
To a cooled (0° C.) stirred solution of (4-chloro-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (0.1 g, 0.42 mmol) in dry DMF (2.5 ml) is added sodium hydride (0.019 g of a 60% dispersion in mineral oil, 0.47 mmol). After stirring at room temperature for 5 hours, the reaction mixture is re-cooled to 0° C. and treated with 4-methylsulfonylbenzyl bromide (0.105 g, 0.42 mmol). The resulting mixture is stirred and allowed to warm to room temperature overnight. The reaction mixture is diluted with water (3 ml) and extracted with ether (3×15 ml). The organic portions are combined, washed with water, dried (Na2SO4) and concentrated in vacuo. The resulting crude residue is loaded on a pre-packed Isolute™ silica column and eluted with iso-hexane:ethyl acetate (1:8) to yield the titled compound as a white powder. (MH+ 407).

reactant | (4-chloro-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 0.42 mmol, 0.1 g | COC(CC1=C(NC2=NC=CC(=C21)Cl)C)=O | C11H11ClN2O2
reactant | sodium hydride | [H-].[Na+]
reactant | 4-methylsulfonylbenzyl bromide | 0.42 mmol, 0.105 g | CS(=O)(=O)C1=CC=C(CBr)C=C1 | C8H9BrO2S
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | water | 3 ml | O | H2O
product | [4-Chloro-1-(4-methanesulfonyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC(=C21)Cl)CC2=CC=C(C=C2)S(=O)(=O)C)C)=O | C19H19ClN2O4S
